US05292452
A mixture of 6.2 g of 3,4-difluorophenylboric acid, 8.5 g of 2,5-dibromopyridine, 0.31 g of tetrakistriphenylphosphine palladium, 60 ml of ethanol, 120 ml of benzene and 120 ml of 2N sodium carbonate solution is heated to boiling (66° C.) for 7 hours while stirring. After cooling the mixture is extracted with diethyl ether. The organic phase is washed with 100 ml of saturated sodium hydrogen carbonate solution and 100 ml of water, dried over sodium sulphite, filtered and concentrated. Purification of the residue by chromatography on silica gel with hexane/ethyl acetate 19:1 yields pure 5-bromo-2-(3,4-difluorophenyl)pyridine.

reactant | 3,4-difluorophenylboric acid | 6.2 g | FC=1C=C(C=CC1F)OB(O)O | C6H5BF2O3
reactant | 2,5-dibromopyridine | 8.5 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | ethanol | 60 ml | C(C)O | C2H6O
reactant | sodium carbonate | 2N, 120 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
product | 5-bromo-2-(3,4-difluorophenyl)pyridine | BrC=1C=CC(=NC1)C1=CC(=C(C=C1)F)F | C11H6BrF2N
